US06245761B1
Preparation of 1-(t-butoxycarbonyl)-3-[2-(2-fluoro-5-bromobenzyloxy)ethyl]piperidine
In a 25 ml round bottom flask, 2-[1-(t-butoxycarbonyl)piperidin-3-yl]ethyl bromide (1.011 g, 3.46 mmol) was dissolved in N,N-dimethylformamide (9 ml). Sodium iodide (1.037 g, 6.92 mmol) was added and the resulting mixture was stirred at ambient temperature for ten minutes. The 2-fluoro-5-bromobenzyl alcohol (0.852 g, 4.15 mmol) and sodium hydride (60%, 208 mg, 5.19 mmol) were then added and the resulting mixture began to froth and exotherm. After thirty minutes, the solution cooled and solidified. Three milliliters of N,N-dimethylformamide was added and the mass was slurried and stirred for three more hours. The progress of the reaction was monitored by thin layer chromatography. The reaction mixture was partitioned between brine and diethyl ether. The organic fraction was washed six times with brine, and then dried over sodium sulfate. The desired title product was further purified by liquid chromatography.

reactant | 2-[1-(t-butoxycarbonyl)piperidin-3-yl]ethyl bromide | 3.46 mmol, 1.011 g | C(C)(C)(C)OC(=O)N1CC(CCC1)CCBr | C12H22BrNO2
reactant | Sodium iodide | 6.92 mmol, 1.037 g | [I-].[Na+]
reactant | 2-fluoro-5-bromobenzyl alcohol | 4.15 mmol, 0.852 g | FC1=C(CO)C=C(C=C1)Br | C7H6BrFO
reactant | sodium hydride | 5.19 mmol, 208 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | Three milliliters | CN(C=O)C | C3H7NO
product | 1-(t-butoxycarbonyl)-3-[2-(2-fluoro-5-bromobenzyloxy)ethyl]piperidine | C(C)(C)(C)OC(=O)N1CC(CCC1)CCOCC1=C(C=CC(=C1)Br)F | C19H27BrFNO3
